US07977344B2
2-(Butyloxy)-9-[3-(2,2-dimethyltetrahydro-2H-pyran-4-yl)Propyl]-8-(methyloxy)-9H-purin-6-amine
Prepared similarly to Intermediate 224 from 2-(butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and 4-(3-bromopropyl)-2,2-dimethyltetrahydro-2H-pyran.

reactant | 2-(butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C(CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | 4-(3-bromopropyl)-2,2-dimethyltetrahydro-2H-pyran | BrCCCC1CC(OCC1)(C)C | C10H19BrO
product | 2-(Butyloxy)-9-[3-(2,2-dimethyltetrahydro-2H-pyran-4-yl)Propyl]-8-(methyloxy)-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCC1CC(OCC1)(C)C)OC)N | C20H33N5O3
